US07265120B2
In the presence of copper(I) iodide (3.7 mg) and dichlorobis(triphenylphosphine)palladium(II) (13.7 mg), triethylamine (0.0596 ml) was dropwise added to a mixture of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (150 mg) and 2-ethynylpyridine (0.0431 ml) in 1,2-dichloroethane (1.5 ml) at 30-35° C. The mixture was stirred at the same temperature for 18 hours. Water was added to the reaction mixture to give a solid. The solid was purified by column chromatography on silica gel (EtOAc only) to give a solid. The solid was suspended in acetone to give 6-[5-amino-3-phenyl-6-(2-pyridylethynyl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (88 mg).

reactant | triethylamine | 0.0596 ml | C(C)N(CC)CC | C6H15N
reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 150 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | 2-ethynylpyridine | 0.0431 ml | C(#C)C1=NC=CC=C1 | C7H5N
reactant | Water | O | H2O
solvent | 1,2-dichloroethane | 1.5 ml | ClCCCl | C2H4Cl2
solvent | acetone | CC(=O)C | C3H6O
catalyst | copper(I) iodide | 3.7 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 13.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-[5-amino-3-phenyl-6-(2-pyridylethynyl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 88 mg | NC=1N=C(C(=NC1C#CC1=NC=CC=C1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C24H20N6O
